US07176306B2
3-Amino-2,4-dibromo-6-methylpyridine (1.16 g, 4.38 mmol) was dissolved in methylene chloride (10 mL). N,N-dimethylaniline (0.77 g, 6.35 mmol) was added to the solution and then a solution of bromoacetyl bromide (1.03 g, 5.12 mmol) in dichloromethane (2 mL) was added dropwise thereto over 5 minutes with stirring and cooling with ice. After completion of addition, the temperature of the mixture was elevated to room temperature and stirred for 12 hours. The resultant mixture was washed sequentially with water, an aqueous saturated sodium hydrogencarbonate solution, and saturated brine. Subsequently, the mixture was dried over sodium sulfate anhydrate and concentrated under reduced pressure. The residue was crystallized from hexane-acetone, to thereby yield 1.44 g of N-[2,4-dibromo-6-methylpyridin-3-yl]-2-bromoacetamide as colorless crystals (yield 85.3%).

reactant | 3-Amino-2,4-dibromo-6-methylpyridine | 4.38 mmol, 1.16 g | NC=1C(=NC(=CC1Br)C)Br | C6H6Br2N2
reactant | N,N-dimethylaniline | 6.35 mmol, 0.77 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | bromoacetyl bromide | 5.12 mmol, 1.03 g | BrCC(=O)Br | C2H2Br2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-[2,4-dibromo-6-methylpyridin-3-yl]-2-bromoacetamide | yield 1.44 g, yield 85.3% | BrC1=NC(=CC(=C1NC(CBr)=O)Br)C | C8H7Br3N2O
